US07217736B2
3,4-Dichlorobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 22]
From 3,4-dichlorobenzyl alcohol (5.0 g; 28 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 45 h at 100° C. The yield was 1.12 g (57%).

reactant | 3,4-dichlorobenzyl alcohol | 28 mmol, 5.0 g | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 3,4-Dichlorobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C12H13Cl2NO3.ClH/c13-10-3-1-8(5-11(10)14)7-18-12(17)4-2-9(16)6-15;/h1,3,5H,2,4,6-7,15H2;1H
